US08044213B2
A solution of 26.04 g (0.40 mole) of potassium cyanide in 30 mL of water was added to a stirring solution of 27.00 g (0.10 mole) of 2-bromo-1-(2-trifluoromethyl-phenyl)-ethanone in 500 mL of ethanol. The mixture was stirred at room temperature overnight. Water and dichloromethane were added to the mixture. The mixture was then acidified with acetic acid (pH=5-6). The organic layer was separated, washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Recrystallization of the residue with ether and hexane gave 14.97 g of 3-oxo-3(2-trifluoromethyl-phenyl)-propionitrile.

reactant | potassium cyanide | 0.40 mole, 26.04 g | [C-]#N.[K+]
reactant | 2-bromo-1-(2-trifluoromethyl-phenyl)-ethanone | 0.10 mole, 27.00 g | BrCC(=O)C1=C(C=CC=C1)C(F)(F)F | C9H6BrF3O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | acetic acid | pH=5-6 | C(C)(=O)O | C2H4O2
solvent | water | 30 mL | O | H2O
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 3-oxo-3(2-trifluoromethyl-phenyl)-propionitrile | 14.97 g | O=C(CC#N)C1=C(C=CC=C1)C(F)(F)F | C10H6F3NO
